US04024272
5,5-Dimethyl-8-hydroxy-6-oxatetracycline is obtained analogously from 5,5-dimethyl-8-benzyloxy-10-0-benzyl-6-oxatetracycline [obtainable by reaction of 2-(1-carbamoyl-1-methylethyl)-5,7-dimethoxy-4-chromanone with HBr/acetic acid to give 2-(1-carbamoyl-1-methylethyl)-5,7-dihydroxy-4-chromanone, benzylation, conversion into the nitrile, reaction with Raney nickel to give 2-(1-formyl-1-methylethyl)-5,7-dibenzyloxy-4-chromanone, condensation with 2-phenyl-2-thiazolin-5-one to give 2-phenyl-4-[2-methyl-2-(5,7-dibenzyloxy-chroman-4-on-2-yl)-propylidene]-2-thiazolin-5-one, condensation with acetonedicarboxylic acid monomethyl ester-monoamide and subsequent epimerization with pyridine to give 4-de-dimethylamino-4-thiobenzamido-5,5-dimethyl-8-benzyloxy-10-0-benzyl-12a-dehydroxy-6-oxatetracycline and 12a-hydroxylation, splitting off the thiobenzoyl group and methylation].

reactant | 2-(1-carbamoyl-1-methylethyl)-5,7-dimethoxy-4-chromanone | C(N)(=O)C(C)(C)C1OC2=CC(=CC(=C2C(C1)=O)OC)OC | C15H19NO5
reactant | HBr acetic acid | Br.C(C)(=O)O
product | 2-(1-carbamoyl-1-methylethyl)-5,7-dihydroxy-4-chromanone | C(N)(=O)C(C)(C)C1OC2=CC(=CC(=C2C(C1)=O)O)O | C13H15NO5
